US04845210
In an argon stream, 1,1,1,3,3,3-hexamethyldisilazane (8 g) is reacted with a n-butyllithium-hexane solution (30 ml) in the same manner as above to give a solution containing lithium bis(trimethylsilyl)amide. A solution of ethyl 3-hydroxybutanoate (2.6 g) in dry tetrahydrofuran (4 ml) is gradually added dropwise thereto at -68° C. or lower, followed by stirring at -70° C. or lower for an hour. To the mixture is added the above trimethylsilylimine compound-containing solution at -70° C. or lower, and the resulting mixture is stirred at the same temperature for an hour and then at 3° C. for an additional one hour. The mixture is poured into a mixture of ethyl acetate (200 ml), aqueous sodium chloride (200 ml) and acetic acid (20 ml) and adjusted to pH 3.8 with 6N hydrochloric acid. The organic layer is separated, washed with aqueous sodium chloride and adjusted to pH 7.5 with aqueous sodium hydrogen carbonate. The organic layer is separated, washed with aqueous sodium chloride, dried over magnesium sulfate and concentrated under reduced pressure. To the residue is added n-hexane (50 ml) and the mixture is allowed to stand at room temperature for 15 hours. The resulting crystals are collected by filtration to give 1.35 g of cis-3-[(R)-1-hydroxyethyl]-4-trimethylsilylethynyl-2-azetidinone. The physical characteristics of this product are identical with those of the compound obtained in Example 1.

reactant | 1,1,1,3,3,3-hexamethyldisilazane | 8 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | lithium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | ethyl 3-hydroxybutanoate | 2.6 g | OC(CC(=O)OCC)C | C6H12O3
reactant | sodium chloride | 200 ml | [Cl-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | cis-3-[(R)-1-hydroxyethyl]-4-trimethylsilylethynyl-2-azetidinone | 1.35 g | O[C@H](C)[C@@H]1C(N[C@@H]1C#C[Si](C)(C)C)=O | C10H17NO2Si
